US09023849B2
1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile
950 mg (purity 85%, approx. 2.281 mmol) of 1-(2-fluorobenzyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidine and 225 mg (2.509 mmol) of copper(I) cyanide were initially charged in 6 ml of absolute DMSO and the mixture was heated at 150° C. for 2 h. After cooling, the mixture was filtered through Celite and washed through with ethyl acetate and THF. The organic phase was washed with 25% aqueous ammonia solution, saturated aqueous ammonium chloride solution and saturated aqueous sodium chloride solution, dried over sodium sulphate and concentrated on a rotary evaporator. 685 mg (purity 84%, 99% of theory) of the target compound were obtained.

reactant | 1-(2-fluorobenzyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidine | approx. 2.281 mmol, 950 mg | FC1=C(CN2N=C(C=3C2=NC=NC3)I)C=CC=C1 | C12H8FIN4
reactant | copper(I) cyanide | 2.509 mmol, 225 mg | [Cu]C#N
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | 1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile | FC1=C(CN2N=C(C=3C2=NC=NC3)C#N)C=CC=C1 | C13H8FN5
